US04072498
Using the procedure of Example 1, but substituting 2-bromo-N,N-dimethylbutyramide for 2-chloro-N,N-dimethylpropionamide and 3-(o-fluorophenyl)-4-methylpyrazole for 4-methyl-3-phenylpyrazole, there was obtained α-ethyl-3-(o-fluorophenyl)-N,N,4-trimethylpyrazole-1-acetamide, b.p. 171°-173° C./0.15 mm.

reactant | 2-chloro-N,N-dimethylpropionamide | ClC(C(=O)N(C)C)C | C5H10ClNO
reactant | 3-(o-fluorophenyl)-4-methylpyrazole | FC1=C(C=CC=C1)C1=NNC=C1C | C10H9FN2
reactant | 4-methyl-3-phenylpyrazole | CC=1C(=NNC1)C1=CC=CC=C1 | C10H10N2
product | α-ethyl-3-(o-fluorophenyl)-N,N,4-trimethylpyrazole-1-acetamide | C(C)C(C(=O)N(C)C)N1N=C(C(=C1)C)C1=C(C=CC=C1)F | C16H20FN3O
